US04399300
In a pressure vessel with a capacity of 7.5 liters, there are combined 20 g of Co2 (CO)8 in 2.5 liters of ethanol, and 612.5 g (5 moles) of chloroacetic acid ethyl ester, in a nitrogen atmosphere. Then the apparatus is scavenged three times with carbon monoxide, and a CO pressure of 7 bars is established. After the reaction temperature of 55° C. is reached, an 11.8% ethanolic solution of NaOH is pumped in by a proportioning pump at a CO pressure of 8 bars, in such a manner that a pH value of about 7.0 is sustained during the reaction. The reaction solution is constantly agitated during the reaction by means of a circulation pump. After 5 hours of reaction time a transformation of 79.2% is achieved. The reaction solution is separated from the NaCl on a rotary evaporator and distilled. 596 grams of malonic acid diethyl ester (94% yield) are obtained, and 20 g of acetic acid ethyl ester (5.7% yield) plus 127 g of chloroacetic acid ethyl ester.

reactant | chloroacetic acid ethyl ester | 5 moles, 612.5 g | C(C)OC(CCl)=O | C4H7ClO2
reactant | carbon monoxide | [C]=O | CO
reactant | NaOH | [OH-].[Na+]
solvent | ethanol | 2.5 liters | C(C)O | C2H6O
product | malonic acid diethyl ester | 596 grams, 94% yield | C(C)OC(CC(=O)OCC)=O | C7H12O4
